US06313312B1
N-[3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide
To a solution of 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine (Preparation 12, 200 mg, 0.735 mmol) in dichloromethane (5 ml) at room temperature was added pyridine (0.15 ml, 1.84 mmol) then dropwise over 5 minutes methane-sulfonylchloride (0.11 ml, 158 mg, 1.38 nimol). The mixture was stirred for 48 h, concentrated in vacuo and the residue was purified by silica (10 g) column chromatography eluting with 90:10:1 ethyl acetate:methanol:ammonia solution (0.880), then in 80:20:1 ethyl acetate:methanol:ammonia solution (0.880). Product-containing fractions were combined and concentrated in vacuo to give the title compound as a pale yellow oil (212 mg, 82%).

reactant | 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 0.735 mmol, 200 mg | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C18H28N2
reactant | pyridine | 1.84 mmol, 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | methane-sulfonylchloride | 0.11 ml, 158 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 212 mg, 82% | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C19H30N2O2S
